US04597902
N-[2-[(4-Chlorophenyl)thio]ethyl]-N-(1-methylethyl)carbamic acid phenyl ester
To a solution of 22.8 g (0.1 mole) of N-[2-[(4-chlorophenyl)thio]ethyl]-1-methylethanamine (oil in Preparation 1) and 10.1 g (0.1 mole) of triethylamine in 300 ml of methylene chloride was added dropwise with stirring a solution of 15.7 g (0.1 mole) phenyl chloroformate in 100 ml of methylene chloride. The resulting solution was stirred overnight at room temperature. The methylene chloride layer was extracted with 5% sodium hydroxide solution followed by 1N sulfuric acid. The methylene chloride layer was concentrated to give an oil which crystallized to a white solid. Recrystallization from isopropyl ether gave white crystalline product, m.p. 54°-56° C. in 79.6% yield.

reactant | N-[2-[(4-chlorophenyl)thio]ethyl]-1-methylethanamine | 0.1 mole, 22.8 g | ClC1=CC=C(C=C1)SCCNC(C)C | C11H16ClNS
reactant | triethylamine | 0.1 mole, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.1 mole, 15.7 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-[2-[(4-Chlorophenyl)thio]ethyl]-N-(1-methylethyl)carbamic acid phenyl ester | 79.6% yield | C1(=CC=CC=C1)OC(N(C(C)C)CCSC1=CC=C(C=C1)Cl)=O | C18H20ClNO2S
